US06069156
Methyl 2-acetyl-1-(2-chlorobenzyl)-3-isobutylindole-6-carboxylate (71.4 mg) was prepared from methyl 2-acetyl-3-isobutylindole-6-carboxylate (58 mg) and 2-chlorobenzyl bromide (0.04 ml) in a similar manner to that of Example 1.

reactant | methyl 2-acetyl-3-isobutylindole-6-carboxylate | 58 mg | C(C)(=O)C=1NC2=CC(=CC=C2C1CC(C)C)C(=O)OC | C16H19NO3
reactant | 2-chlorobenzyl bromide | 0.04 ml | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
product | Methyl 2-acetyl-1-(2-chlorobenzyl)-3-isobutylindole-6-carboxylate | 71.4 mg | C(C)(=O)C=1N(C2=CC(=CC=C2C1CC(C)C)C(=O)OC)CC1=C(C=CC=C1)Cl | C23H24ClNO3
